US08058285B2
Synthesis of 2-ethoxy-7-(3,4-dimethoxyphenyl)-9-methyl-4-piperazine-1-yl-pyrido[3′,2′:4,5]thieno[3,2-d]pyrimidine
0.1 g (0.22 mmol) 2-chloro-7-(3,4-dimethoxyphenyl)-9-methyl-4-piperazin-1-yl-pyrido-[3′,2′:4,5]thieno[3,2-d]pyrimidine and 0.22 ml (0.44 mmol) potassium ethylate (2M THF) are refluxed in 10 ml absolute dioxane for 3 h. Then, the solvent is removed and the residue is suspended in some water. The aqueous suspension is extracted with dichloromethane, the organic phase is dried on sodium sulfate and the solvent is removed. 50 mg (49%) of the title substance is obtained.

reactant | 2-chloro-7-(3,4-dimethoxyphenyl)-9-methyl-4-piperazin-1-yl-pyrido-[3′,2′:4,5]thieno[3,2-d]pyrimidine | 0.22 mmol, 0.1 g | ClC=1N=C(C2=C(N1)C1=C(S2)N=C(C=C1C)C1=CC(=C(C=C1)OC)OC)N1CCNCC1 | C22H22ClN5O2S
reactant | potassium ethylate | 0.44 mmol, 2M, 0.22 ml | CC[O-].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-ethoxy-7-(3,4-dimethoxyphenyl)-9-methyl-4-piperazine-1-yl-pyrido[3′,2′:4,5]thieno[3,2-d]pyrimidine | C(C)OC=1N=C(C2=C(N1)C1=C(S2)N=C(C=C1C)C1=CC(=C(C=C1)OC)OC)N1CCNCC1 | C24H27N5O3S
